US05175157
b) N-Benzyl-2-pyrrolidone-3-carboxylic acid
At -60° C., 150 ml of 1.6 molar butyl lithium solution in n-hexane are added to 28.3 g =39.3 ml (0.28 mol) of diisopropylamine in 400 ml of absolute ether, with stirring and under nitrogen. 35.1 g (0.2 mol) of N-benzyl-2-pyrrolidone dissolved in 150 ml of absolute ether are added dropwize thereto at -60° C. The cooling bath is taken away and dry carbon dioxide is introduced for 15 minutes. After stirring for 10 minutes the mixture is poured onto ice, the organic phase is separated off and extracted twice with 2 molar sodium hydroxide solution. The combined aqueous phases are extracted once with ether and then acidified with concentrated hydrochloric acid, with cooling. The aqueous phase is extracted twice with methylene chloride and, after the organic phase has been dried over magnesium sulphate, it is concentrated by evaporation in vacuo. Yield: 35 g (79.8% of theory), Rf value: 0.42 (silica gel, eluant: 5% ethanol in methylene chloride).

reactant | butyl lithium | 1.6 molar, 150 ml | C(CCC)[Li]
reactant | diisopropylamine | 0.28 mol, 39.3 ml | C(C)(C)NC(C)C | C6H15N
reactant | N-benzyl-2-pyrrolidone | 0.2 mol, 35.1 g | C(C1=CC=CC=C1)N1C(CCC1)=O | C11H13NO
reactant | carbon dioxide | C(=O)=O | CO2
solvent | n-hexane | CCCCCC | C6H14
solvent | ether | 400 ml | CCOCC | C4H10O
solvent | ether | 150 ml | CCOCC | C4H10O
product | N-Benzyl-2-pyrrolidone-3-carboxylic acid | C(C1=CC=CC=C1)N1C(C(CC1)C(=O)O)=O | C12H13NO3
